US05175162
To a suspension of 59.5 g of N,N,N-trimethyl-N-[(4-oxo-4,5,6,7-tetrahydrothieno[2,3-b]thiepin-5-yl)methyl]ammonium iodide in 400 ml of methanol is added a solution of 25.2 g of potassium cyanide in 100 ml of water with stirring at room temperature. The mixture is stirred for 1.5 hours at the same temperature, poured into 500 ml of water and then extracted with chloroform. The extract is washed with water, dried over magnesium sulfate and the chloroform is distilled off. The resulting crystals are recrystallized from ethanol to give 32 g of 4-oxo-4,5,6,7-tetrahydrothieno-[2,3-b]thiepin-5-acetonitrile as white crystals, melting at 68°-70° C.

reactant | N,N,N-trimethyl-N-[(4-oxo-4,5,6,7-tetrahydrothieno[2,3-b]thiepin-5-yl)methyl]ammonium iodide | 59.5 g | [I-].C[N+](CC1C(C2=C(SCC1)SC=C2)=O)(C)C
reactant | potassium cyanide | 25.2 g | [C-]#N.[K+]
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 4-oxo-4,5,6,7-tetrahydrothieno-[2,3-b]thiepin-5-acetonitrile | 32 g | O=C1C2=C(SCCC1CC#N)SC=C2 | C10H9NOS2
